US06071928
c) 2-Bromo-4-(5-trifluoromethyl-1H-tetrazol-1-yl)methylanisole
2-bromo-4-(trifluoroacetamido)methylanisole (5 g, 16 mmol) was suspended in carbon tetrachloride (125 ml). Triphenylphosphine (8 g, 30.5 mmol) was added and the mixture stirred at 80° C. for 16 hours. Solvent was removed in vacuo and the residue poured into hexane (100 ml) and stirred at reflux for 30 minutes. The suspension was filtered through Hyflo™ and the filtrate concentrated to an oil. The oil in N,N-dimethylformamide (15 ml) was added to a stirred solution of sodium azide (1 g, 15 mmol) in N,N-dimethylformamide at 0° C. The mixture was stirred at ambient temperature for 2 hours then poured into water (200 ml) and extracted with ethyl acetate (2×100 ml). The combined organics were washed with water (3×200 ml), dried over sodium sulfate and the solvent was removed in vacuo leaving a yellow oil. Chromatography on silica gel, eluting with 10-50% ethyl acetate in hexane, gave the title compound as a yellow oil (230 mg, 5%, δH (360MHz, CDCl3) 4.90 (1H, d, J 7.6Hz, NCHAHBAr), 4.95 (1H, d, J 7.6 Hz, NCHAHBAr), 7.00 (1H, d, J 8.6Hz, 6-H), 7.52 (1H, dd, J 2.2, 8.5Hz, 5-H), 7.80 (1H, d, 2.2Hz, 3-H); m/z (ES+) 337, 339 ([M+H]+).

reactant | 2-bromo-4-(trifluoroacetamido)methylanisole | 16 mmol, 5 g | BrC1=C(C=CC(=C1)CNC(C(F)(F)F)=O)OC | C10H9BrF3NO2
reactant | Triphenylphosphine | 30.5 mmol, 8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium azide | 15 mmol, 1 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | carbon tetrachloride | 125 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-Bromo-4-(5-trifluoromethyl-1H-tetrazol-1-yl)methylanisole | BrC1=C(C=CC(=C1)CN1N=NN=C1C(F)(F)F)OC | C10H8BrF3N4O
